US07626056B2
1-(cyclopropylmethyl)4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile (2 g; 8.0321 mmol) was dissolved in toluene (30 mL) and methylmagnesium bromide (8.6 ml; 12mL of a 1.4M solution in 3:1 toluene/hexane) was added and the reaction mixture was heated to reflux for 16 hours. The reaction was cooled to 0C. and methanol (12 mL) was added and the mixture was stirred for 15 minutes before adding sodium borohydride (0.315 g; 8.514026 mmol) and stirring for 0.5 hours at room temperature. The reaction was carefully quenched with 1 M hydrochloric acid (24 mL) and then extracted into ethyl acetate and purified using a 40M Biotage cartridge using 5% (2M ammonia in methanol)/DCM to yield (1-{1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)thio]cyclohexyl}ethyl)amine. (1.6 g, 75%)

reactant | 1-(cyclopropylmethyl)4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile | 8.0321 mmol, 2 g | C1(CC1)CC1(CCC(CC1)SCC1CC1)C#N | C15H23NS
reactant | methylmagnesium bromide | C[Mg]Br
reactant | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
reactant | sodium borohydride | 8.514026 mmol, 0.315 g | [BH4-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 12 mL | CO | CH4O
product | (1-{1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)thio]cyclohexyl}ethyl)amine | C1(CC1)CC1(CCC(CC1)SCC1CC1)C(C)N | C16H29NS
